US03937842
3,6-Bis[2-(diethylamino)acetyl] acenaphthene dihydrochloride
A mixture of 30.7 g (0.1 mole) of 3,6-bis(2-chloroacetyl)acenaphthene, 100 ml of diethylamine and 2 g of potassium iodide is dissolved in 500 ml of tetrahydrofuran and allowed to stand in a stoppered flask for 8 days. The resulting amine salt which forms is filtered, washed with tetrahydrofuran and the combined filtrates reduced to dryness in vacuo. The residue is dissolved in methylene chloride, treated with charcoal and acidified using ethereal hydrochloric acid. The resulting solid which forms is filtered, recrystallized from a methanol-ether solution and further recrystallized from a methanol-ethyl acetate solution to yield a product, hygroscopic in nature, which indicated by its analysis to be a tetrahydrate having a m.p. 220.5°-222°C. (dec), λ max(EtOH) 283.

reactant | 3,6-bis(2-chloroacetyl)acenaphthene | 0.1 mole, 30.7 g | ClCC(=O)C1=C2CCC=3C=CC(=C(C=C1)C32)C(CCl)=O | C16H12Cl2O2
reactant | diethylamine | 100 ml | C(C)NCC | C4H11N
reactant | potassium iodide | 2 g | [I-].[K+]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 3,6-Bis[2-(diethylamino)acetyl] acenaphthene dihydrochloride | Cl.Cl.C(C)N(CC(=O)C1=C2CCC=3C=CC(=C(C=C1)C32)C(CN(CC)CC)=O)CC | InChI=1S/C24H32N2O2.2ClH/c1-5-25(6-2)15-22(27)18-11-9-17-10-12-20-19(13-14-21(18)24(17)20)23(28)16-26(7-3)8-4;;/h9,11,13-14H,5-8,10,12,15-16H2,1-4H3;2*1H
